US04067903
288 parts of α-naphthol, 10 parts of tributyl phosphite and 110 parts of ethylamine gas are heated for 20 hours at 240° C, whilst stirring. After cooling and letting down the autoclave, the mixture is stirred for 20 minutes with 1,000 parts of 2.5 percent strength by weight aqueous sodium hydroxide solution at 70° C. The organic phase is separated off, washed with 2,000 parts of water at 30° C, separated off and distilled. 290 parts of N-ethyl-α-naphthylamine boiling at 119° - 120° C/0.1 mm Hg are obtained, corresponding to a yield of 85% of theory.

reactant | α-naphthol | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | tributyl phosphite | P(OCCCC)(OCCCC)OCCCC | C12H27O3P
reactant | ethylamine | C(C)N | C2H7N
reactant | sodium hydroxide | [OH-].[Na+]
product | N-ethyl-α-naphthylamine | yield of 85% | C(C)NC1=CC=CC2=CC=CC=C12 | C12H13N
